US08258141B2
Step 2: 9-((1R,2S,3R,4S)-4-Amino-2,3-dihydroxy-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid (2-{3-[1-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylcarbamoyl)-piperidin-4-yl]-ureido}-ethyl)-amide dihydrochloride
A solution of {(1S,2R,3S,4R)-4-[6-(2,2-diphenyl-ethylamino)-2-(2-{3-[1-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylcarbamoyl)-piperidin-4-yl]-ureido}-ethylcarbamoyl)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-carbamic acid tert-butyl ester (76.7 mg, 81 μmol) in MeOH (0.5 ml) is treated with 4M HCl in dioxane (0.5 ml). After stirring at room temperature for 1 hour, the solvent is removed in vacuo to afford the title compound which is used crude in the next step.

reactant | {(1S,2R,3S,4R)-4-[6-(2,2-diphenyl-ethylamino)-2-(2-{3-[1-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylcarbamoyl)-piperidin-4-yl]-ureido}-ethylcarbamoyl)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-carbamic acid tert-butyl ester | 81 μmol, 76.7 mg | C(C)(C)(C)OC(N[C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(NCCNC(=O)NC1CCN(CC1)C(NC1CCN(CC1)C1=NC=CC=C1)=O)=O)O)O)=O | C49H63N13O7
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | 0.5 ml | CO | CH4O
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | 9-((1R,2S,3R,4S)-4-Amino-2,3-dihydroxy-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid (2-{3-[1-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylcarbamoyl)-piperidin-4-yl]-ureido}-ethyl)-amide dihydrochloride | Cl.Cl.N1(CCC(CC1)NC(=O)N1CCC(CC1)NC(NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=NC=CC=C1 | InChI=1S/C44H55N13O5.2ClH/c45-33-25-34(38(59)37(33)58)57-27-50-36-39(49-26-32(28-9-3-1-4-10-28)29-11-5-2-6-12-29)53-40(54-41(36)57)42(60)47-19-20-48-43(61)51-30-16-23-56(24-17-30)44(62)52-31-14-21-55(22-15-31)35-13-7-8-18-46-35;;/h1-13,18,27,30-34,37-38,58-59H,14-17,19-26,45H2,(H,47,60)(H,52,62)(H2,48,51,61)(H,49,53,54);2*1H/t33-,34+,37+,38-;;/m0../s1
